US04410548
(a) 1-Bromo-2-[2-methoxy-5-methyl-4-(methylthio)phenoxy]ethane
A solution of sodium hydroxide (21 g) in water (75 ml) was added to 2-methoxy-5-methyl-4-methylsulphinylphenol (21 g), dibromoethane (160 ml) and benzyltriethylammonium chloride (1.26 g) and the resultant mixture heated at 60° for 18 hours. After cooling, water (50 ml) was added. The organic layer was separated, the aqueous layer extracted with dibromoethane (2×10 ml). The combined organic extracts were washed with 2 N aqueous sodium hydroxide solution (100 ml) and water (100 ml) and the solvent was evaporated under reduced pressure to give an orange oil, which on trituration with 40°-60° petroleum ether afforded a solid, which was filtered off, washed with further petroleum ether and dried in vacuo. The crude mono-ether (29.24 g), m.p. 66°-67° was used without further purification in the next stage. (A sample purified by column chromatography on Florisil eluting with dichloromethane followed by crystallisation from diethyl ether/40°-60° petroleum ether (1:3 v/v) had m.p. 72°-73°).

reactant | sodium hydroxide | 21 g | [OH-].[Na+]
reactant | 2-methoxy-5-methyl-4-methylsulphinylphenol | 21 g | COC1=C(C=C(C(=C1)S(=O)C)C)O | C9H12O3S
reactant | dibromoethane | 160 ml | BrC(C)Br | C2H4Br2
solvent | water | 75 ml | O | H2O
catalyst | benzyltriethylammonium chloride | 1.26 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | water | 50 ml | O | H2O
product | 1-Bromo-2-[2-methoxy-5-methyl-4-(methylthio)phenoxy]ethane | BrCCOC1=C(C=C(C(=C1)C)SC)OC | C11H15BrO2S
